US04795750
A mixture of 5 g of 2-chloro-4-amino-6,7-dimethoxy quinazoline, 30 g of N-methyl-homoveratryl amine (Lloydia 33, 15-18) and 1 g of triethylbenzyl ammonium chloride was heated with stirring to 110° C. over a 3 hour period. Then the excess of N-methyl-homoveratryl amine was distilled off in vacuo. On standing in the cold, a precipitate was formed from the solution of the evaporation residue in acetone. After filtration with activated charcoal, the precipitate was recrystallized from methanol. The N-methyl-N-(4-amino-6,7-dimethoxy-quinazolin-2-yl)-homoveratryl amine hydrochloride obtained melted at 265°-270° C. with decomposition.

reactant | 2-chloro-4-amino-6,7-dimethoxy quinazoline | 5 g | ClC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C10H10ClN3O2
reactant | N-methyl-homoveratryl amine | 30 g | CNCCC1=CC(OC)=C(OC)C=C1 | C11H17NO2
catalyst | triethylbenzyl ammonium chloride | 1 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | N-methyl-N-(4-amino-6,7-dimethoxy-quinazolin-2-yl)-homoveratryl amine hydrochloride | Cl.CN(C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC)CCC1=CC(OC)=C(OC)C=C1 | InChI=1S/C21H26N4O4.ClH/c1-25(9-8-13-6-7-16(26-2)17(10-13)27-3)21-23-15-12-19(29-5)18(28-4)11-14(15)20(22)24-21;/h6-7,10-12H,8-9H2,1-5H3,(H2,22,23,24);1H
